US07994185B2
N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 51, Step B using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide (200 mg, 0.39 mmol) in 7 N ammonia in MeOH (2 mL) the title compound was obtained as a white powder (0.16 g, 0.328 mmol, 84.2% yield). 1H NMR (400 MHz, DMSO-d6): δ 11.03 (s, 1H), 7.95 (d, J=5.1 Hz, 1H), 7.68-7.72 (m, 1H), 7.35 (t, J=7.7 Hz, 1H), 7.18-7.28 (m, 5H), 6.76 (s, 2H), 6.00 (d, J=5.1 Hz, 1H), 3.25-3.31 (m, 1H), 1.36 (d, J=7.0 Hz, 6H). MS (ESI): 488.1 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide | 0.39 mmol, 200 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F | C22H17ClF2N4O2S2
reactant | ammonia | 7 N | N | H3N
solvent | MeOH | 2 mL | CO | CH4O
product | N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F | C22H19F2N5O2S2
